US07074817B2
Ethyl {1-benzyl-4-[4-(trifluoromethyl)phenyl]-1H-indol-3-yl}(oxo)acetate
Ethyl {1-benzyl-4-[4-(trifluoromethyl)phenyl]-1H-indol-3-yl}(oxo)acetate was prepared from 1-benzyl-4-[4-(trifluoromethyl)phenyl]-1H-indole (0.257 g, 0.731 mmol), oxalyl chloride (2.2 mL, 26 mmol), and ethanol (6 mL) according to the procedure described in Step 3 of Example 1. Purification by HPLC using 3% ethanol in hexane as the mobile phase afforded the title compound as a hard yellow gum (0.064 g, 19%). 1HNMR (200 MHz, DMSO-d6): δ 8.7 (s, 1H), 7.7 (d, 3H, J=7.7 Hz), 7.15-7.5 (m, 9H), 5.65 (s, 2H), 4.25 (q, 2H, J=7.0 Hz), and 1.35 ppm (t, 3H, J=7.1 Hz).

reactant | 1-benzyl-4-[4-(trifluoromethyl)phenyl]-1H-indole | 0.731 mmol, 0.257 g | C(C1=CC=CC=C1)N1C=CC2=C(C=CC=C12)C1=CC=C(C=C1)C(F)(F)F | C22H16F3N
reactant | oxalyl chloride | 26 mmol, 2.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ethanol | 6 mL | C(C)O | C2H6O
product | Ethyl {1-benzyl-4-[4-(trifluoromethyl)phenyl]-1H-indol-3-yl}(oxo)acetate | 0.064 g, 19% | C(C1=CC=CC=C1)N1C=C(C2=C(C=CC=C12)C1=CC=C(C=C1)C(F)(F)F)C(C(=O)OCC)=O | C26H20F3NO3
